US08614206B2
Following the procedure for Intermediate 33 starting with 5-chloro-1-(4-methoxybenzyl)-4-nitro-1H-pyrazole and (R)-tert-butyl 3-methylpiperazine-1-carboxylate gave (R)-tert-butyl 4-(4-amino-1-(4-methoxybenzyl)-1H-pyrazol-5-yl)-3-methylpiperazine-1-carboxylate as a red gum (325 mg, 81% over two steps). 1H NMR (400 MHz, CDCl3) δ 7.16-7.11 (m, 3H), 6.82 (d, J=8.6 Hz, 2H), 5.16 (d, J=14.8 Hz, 1H), 5.05 (d, J=14.8 Hz, 1H), 4.10-3.80 (m, 2H), 3.78 (s, 3H), 3.26-3.19 (m, 1H), 3.01 (td, J=11.4, 3.0 Hz, 1H), 2.86 (t, J=13.2 Hz, 1H), 2.66 (s, 2H), 2.57 (s, 2H), 1.47 (s, 9H), 0.81 (d, J=6.3 Hz, 3H).

reactant | 5-chloro-1-(4-methoxybenzyl)-4-nitro-1H-pyrazole | ClC1=C(C=NN1CC1=CC=C(C=C1)OC)[N+](=O)[O-] | C11H10ClN3O3
reactant | (R)-tert-butyl 3-methylpiperazine-1-carboxylate | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
product | (R)-tert-butyl 4-(4-amino-1-(4-methoxybenzyl)-1H-pyrazol-5-yl)-3-methylpiperazine-1-carboxylate | NC=1C=NN(C1N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C)CC1=CC=C(C=C1)OC | C21H31N5O3
